US08138187B2
Indole Unit Ind-11
3-Cyclopropyl-1H-indole (Ind-11) 3-Cyclopropyl-2-trimethylsilanyl-1H-indole (1.56 g, 6.0 mmol)) was dissolved in tetrahydrofuran (40 ml), tetrabutylammonium fluoride×3H2O (2.79 g, 8.84 mmol) was added and the mixture was stirred at 70° C. for 2 h. The reaction mixture was concentrated, water (90 ml) and diethyl ether (70 ml) were added and the mixture was stirred for 10 min. The phases were separated. The aqueous phase was extracted with diethyl ether (2×50 ml). The combined organic phases were dried with sodium sulfate and concentrated. Ind-11 was isolated as a brown oil in a yield of 99% (1.04 g).

reactant | 3-Cyclopropyl-1H-indole | C1(CC1)C1=CNC2=CC=CC=C12 | C11H11N
reactant | 3-Cyclopropyl-2-trimethylsilanyl-1H-indole | 6.0 mmol, 1.56 g | C1(CC1)C1=C(NC2=CC=CC=C12)[Si](C)(C)C | C14H19NSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
